US07211573B2
1.00 g (2.0 mmol N-[(6R,7S)-2-Fluoro-6-methyl-8-oxo-9-(2-oxo-ethyl)-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl]-2-hydroxy-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamide in 30 ml tetrahydrofurane were reduced with 0.09 g (2.0 mmol) sodium borohydride. Chromatography on silicagel with ethylacetate/heptane 0:100 to 100:0 yielded 0.33 g (34%) N-[(6R,7S)-2-fluoro-9-(2-hydroxy-ethyl)-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl]-2-hydroxy-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamide, MS m/e (%): 502.0 (M+H+, 100).

reactant | N-[(6R,7S)-2-Fluoro-6-methyl-8-oxo-9-(2-oxo-ethyl)-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl]-2-hydroxy-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamide | 2.0 mmol | FC=1C=CC2=C(N(C([C@H]([C@H](O2)C)N(C(C(C(=O)N)(C)O)=O)CC(C(F)(F)F)(F)F)=O)CC=O)C1 | C19H19F6N3O6
reactant | sodium borohydride | 2.0 mmol, 0.09 g | [BH4-].[Na+]
reactant | ethylacetate heptane | C(C)OC(C)=O.CCCCCCC
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
product | N-[(6R,7S)-2-fluoro-9-(2-hydroxy-ethyl)-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl]-2-hydroxy-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamide | 0.33 g, 34% | FC=1C=CC2=C(N(C([C@H]([C@H](O2)C)N(C(C(C(=O)N)(C)O)=O)CC(C(F)(F)F)(F)F)=O)CCO)C1 | C19H21F6N3O6
